US07238808B2
To a stirred solution of 5-(3-methyl-4-trifluoromethyl-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine (2.12 g, 6.14 mmol) in acetic acid (15 ml) was added at room temperature sodium acetate (0.57 g, 6.95 mmol) and drop wise a solution of iodine monochloride (1.13 g, 6.96 mmol) in acetic acid (3.5 ml). The reaction mixture was stirred at room temperature for 16 h, diluted slowly with water (up to 100 ml), stirred at room temperature for 30 min, the precipitate was filtered off, washed with water and dried to give 3-iodo-5-(3-methyl-4-trifluoromethyl-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine (2.44 g, 84%) as a yellow solid. MS (EI) 471.0 [(M)+]; mp 160° C.

reactant | 5-(3-methyl-4-trifluoromethyl-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine | 6.14 mmol, 2.12 g | CC=1C=C(C=CC1C(F)(F)F)C1=NC=2N(C(=C1)C(F)(F)F)N=CC2 | C15H9F6N3
reactant | sodium acetate | 6.95 mmol, 0.57 g | C(C)(=O)[O-].[Na+]
reactant | iodine monochloride | 6.96 mmol, 1.13 g | ICl | ClI
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 3.5 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 3-iodo-5-(3-methyl-4-trifluoromethyl-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine | 2.44 g, 84% | IC=1C=NN2C1N=C(C=C2C(F)(F)F)C2=CC(=C(C=C2)C(F)(F)F)C | C15H8F6IN3
